US07893352B2
2,4,7,9-tetraphenyl-1,10-phenanthroline (PBP)
Under a nitrogen atmosphere, 15 ml of a 1.6 mol/l phenyllithium solution (24 mmole) was added to a stirred suspension of 2.0 g of bathophenanthroline (6 mmole) in a mixture of 60 ml of toluene and 20 ml of THF, and the resulting mixture was cooled to 0° C. The resulting deep-red solution was stirred overnight at room temperature, and 10 ml of water was then added. The organic layer was separated, and the aqueous layer was extracted with 40 ml of dicholormethane three times. The combined extracts were stirred with 30 g of MnO2 for 2 hours. The mixture was dried over 30 g of anhydrous MgSO4, filtered, and evaporated to give 2.6 g of a light yellow solid in a yield of 90 percent. 1H NMR (500 MHz, CDCl3), ppm: 8.50 (d, J=7.5 Hz, 4H), 8.09 (s, 2H), 7.81 (s, 2H), 7.61-7.57 (m, 8H), 7.55 (dd, J=7.5, 7.5 Hz, 4H), 7.52-7.47 (m, 4H). Analysis for PBP. Found: C, 88.62, H, 4.56, N, 5.82. Calculated: C, 89.23, H, 4.99, N, 5.78.

reactant | phenyllithium | 24 mmole, 1.6 mol/l | C1(=CC=CC=C1)[Li]
reactant | bathophenanthroline | 6 mmole, 2.0 g | C1=CC=C(C=C1)C2=C3C=CC4=C(C=CN=C4C3=NC=C2)C5=CC=CC=C5 | C24H16N2
reactant | water | 10 ml | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2,4,7,9-tetraphenyl-1,10-phenanthroline | 2.6 g, yield of 90 percent | C1(=CC=CC=C1)C1=NC2=C3N=C(C=C(C3=CC=C2C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H24N2
